* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Royer-zvs.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N003 240
R2 N001 N002 10
R3 N001 N004 240
L1 N002 N005 1µ
L2 N006 N002 1µ
L3 N002 N002 10m
C1 N006 N005 330n
D1 N003 N006 D
D2 N004 N005 D
M1 N005 N003 0 0 IRFZ44N
M2 N006 N004 0 0 IRFZ44N
V1 N001 0 15
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 200u
* L = L1+L2+2*M = 1u + 1u 2*1u = 4u
* C = 330nF
* 1/(2pi*sqrt(LC))=140 kHz
* R2 limits the current
* Royer oscillator with ZVS mosfets
* Diodes need to be fast schottky
* L3 avoids spikes on power supply\nZener diode and 10k resistor on mosfet gate are used to avoid spikes on the mosfet gate
.backanno
.end
