* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Wien-oscillator.asc
* Generated by LTspice 26.0.1 for Windows.
R1 0 N001 10k
R2 N002 N001 20k
R3 N004 N003 10k
C1 N002 N004 10n
C2 0 N003 10n
R4 N003 0 10k
V1 A 0 10
X§U2 N003 N001 A B N002 LT1001 ;§pnba In+)In-)V+)V-)OUT
V2 B 0 -10
.tran 10ms startup
* Wien oscillator
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1001.asy)
.lib LTC.lib
.backanno
.end
